US04837236
3-(m-Phenoxyphenyl)-2-methylpropyl iodide (1.0 g) was added to 3-methoxymethylpyridine (1.75 g) at room temperature, and the resultant mixture was stirred at 120° C. for 4 hours, cooled to room temperature and washed with diethyl ether three times. The resultant mixture was admixed with methanol (20 ml) and then with acetic acid (2 ml). To the resulting mixture, 5% palladium-carbon (0.5 g) was added at room temperature under nitrogen stream, and then hydrogenation was carried out under nitrogen stream. After absorption of hydrogen was completed, the catalyst was removed by filtration, and the filtrate was combined with 15% aqueous sodium hydroxide solution (50 ml) and extracted with diethyl ether. The ether layer was washed with saturated aqueous sodium chloride solution, dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography to give N-[3-(m-phenoxyphenyl)-2-methylpropyl]-3-methoxymethylpiperidine (0.2 g).

reactant | 3-(m-Phenoxyphenyl)-2-methylpropyl iodide | 1.0 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)CC(CI)C | C16H17IO
reactant | 3-methoxymethylpyridine | 1.75 g | COCC=1C=NC=CC1 | C7H9NO
product | N-[3-(m-phenoxyphenyl)-2-methylpropyl]-3-methoxymethylpiperidine | 0.2 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)CC(CN1CC(CCC1)COC)C | C23H31NO2
